US05356886
A solution of (E)-6-chloro-9-[4-(diisopropoxy-phosphoryl)but-3-enyl]purine (309 mg, 829mmol) in saturated ethanolic ammonia (35 ml) was heated at 80° C. in a stainless steel autoclave for 5 hr. The solvent was removed and the residue purified by column chromatography on silica gel eluting with ethyl acetate-methanol (3:1) to give (E)-9-[4-(diisopropoxyphosphoryl)but-3-enyl]adenine as a white solid (205 mg, 70%), m.p. 121°-122° C.; λmax (EtOH) 262 (11,855)nm; υmax (KBr) 3320, 3175, 2935, 1650. 1600, 1575, 1475 and 1240 cm-1 ; δH (CDCl3) 1.25 (12H, dd, J 6 Hz and 19 Hz, CH(CH3)2), 2.84 (2H, m, CH2), 4.35 (2H, t, J 7 Hz, CH2N), 4.55 (2H, m, CH(CH3)2), 5.69 (1H, dd, J 17 Hz and 19 Hz, PCH=CH), 5.76 (2H, s, NH2), 6.70 (1H, ddt, J 7 Hz, 17 Hz and 22 Hz, PCH=CH ), 7.79 (1H, s, H-2/H-8), 8.37 (1H, s, H-2/H-8) (Found: MH+ 354.1695. C15C24N5O3P requires MH+ 354. 1695).

reactant | (E)-6-chloro-9-[4-(diisopropoxy-phosphoryl)but-3-enyl]purine | 829mmol, 309 mg | ClC1=C2N=CN(C2=NC=N1)CC\C=C\P(=O)(OC(C)C)OC(C)C | C15H22ClN4O3P
reactant | ammonia | 35 ml | N | H3N
product | (E)-9-[4-(diisopropoxyphosphoryl)but-3-enyl]adenine | 205 mg, 70% | C(C)(C)OP(=O)(OC(C)C)/C=C/CCN1C2=NC=NC(=C2N=C1)N | C15H24N5O3P
